US08648068B2
III.3. (2S,4S)-tert-butyl 4-(2-amino-5-fluorophenoxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate
Lithium aluminium hydride (540.0 mg) added to a cooled (0-4° C.) solution of (2S,4S)-1-tert butyl 2-methyl 4-(2-amino-5-fluorophenoxy)pyrrolidine-1,2-dicarboxylate (3.36 g) in THF (30.0 ml). The reaction mixture was stirred at this temperature for 4 h. After this time the mixture was quenched with water (0.54 ml), NaOH (2M; 0.54 ml) and water (3×0.54 ml). The mixture was stirred for 1.5 h, then diluted with EtOAc and MgSO4 was added. The suspension was filtered through celite and the filtrate evaporated. The residue was purified by chromatography.

reactant | Lithium aluminium hydride | 540.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4S)-1-tert butyl 2-methyl 4-(2-amino-5-fluorophenoxy)pyrrolidine-1,2-dicarboxylate | 3.36 g | NC1=C(O[C@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)C(=O)OC)C=C(C=C1)F | C17H23FN2O5
solvent | THF | 30.0 ml | C1CCOC1 | C4H8O
product | (2S,4S)-tert-butyl 4-(2-amino-5-fluorophenoxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | NC1=C(O[C@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)CO)C=C(C=C1)F | C16H23FN2O4
